US07622469B2
N1-4-methoxyphenethyl-biguanide hydrochloride (Compound 15 in Preparation method 2 of Working Example 15)
200 ml of n-propanol was added to 30.0 g (0.16 mol) of 4-methoxyphenethylamine hydrochloride and 14.1 g (0.17 mol) of dicyanodiamide, and the mixture was refluxed for 24 hours, and cooled. The resulting precipitated crystals were filtered off, and the filtrate was concentrated and cooled. The precipitated crystals were recrystallized from n-propanol to obtain 22.6 g of colorless crystals having a melting point of 136 to 139° C.

reactant | 4-methoxyphenethylamine hydrochloride | 0.16 mol, 30.0 g | Cl.COC1=CC=C(CCN)C=C1
reactant | dicyanodiamide | 0.17 mol, 14.1 g | C(#N)N=C(N)N | C2H4N4
solvent | n-propanol | 200 ml | C(CC)O | C3H8O
product | N1-4-methoxyphenethyl-biguanide hydrochloride | 22.6 g | Cl.COC1=CC=C(CCNC(=N)NC(=N)N)C=C1 | InChI=1S/C11H17N5O.ClH/c1-17-9-4-2-8(3-5-9)6-7-15-11(14)16-10(12)13;/h2-5H,6-7H2,1H3,(H6,12,13,14,15,16);1H
